US05141955
N-(4-Chlorophenyl)-2-benzylselenobenzamide
To a solution of 6 g (0.0206 mol) 2-benzylselenobenzoic acid and 2.1 g (0.0206 mol) triethylamine in 100 ml dichloromethane at 0°-5° C. is added in one portion 5.24 g (0.0206 mol) bis[2-oxo-3-oxazolidinyl]phosphoryl chloride. After stirring for 30 minutes a solution of 2.63 g (0.0206 mol) 4-chloroaniline at 0° C. is added and after 15 minutes a solution of 2.1 g (0.0206 mol) triethylamine in 30 ml dichloromethane (within 21/2 hours). The reaction mixture is then immediately extracted with 100 ml 1N aqueous hydrochloroic acid solution, 100 ml 1N caustic soda solution and 100 ml distilled water. The organic phase is dried with sodium sulfate and the solvent removed under vacuum. The residue is purified by recrystallization from 80 ml 2-propanol.

reactant | 2-benzylselenobenzoic acid | 0.0206 mol, 6 g | C(C1=CC=CC=C1)C1=C(C(=[Se])O)C=CC=C1 | C14H12OSe
reactant | triethylamine | 0.0206 mol, 2.1 g | C(C)N(CC)CC | C6H15N
reactant | bis[2-oxo-3-oxazolidinyl]phosphoryl chloride | 0.0206 mol, 5.24 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | 4-chloroaniline | 0.0206 mol, 2.63 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | triethylamine | 0.0206 mol, 2.1 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-(4-Chlorophenyl)-2-benzylselenobenzamide | ClC1=CC=C(C=C1)NC(C1=C(C=CC=C1)CC1=CC=CC=C1)=[Se] | C20H16ClNSe
